US09447030B2
To a solution of tert-butyl (2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (16 g, 43.9 mmol, 1.0 equiv.) in 1,4-dioxane (320 mL) were added cyclopent-1-en-1-yl trifluoromethanesulfonate (11.4 g, 52.7 mmol, 1.2 equiv.), Pd (PPh3)4 (2.54 g, 2.2 mmol, 0.05 equiv.) and a solution of Na2CO3 (5.6 g, 52.7 mmol, 1.2 equiv.) in water (160 mL) at room temperature. The reaction was then heated to 110° C. and stirred for 4 h. The reaction mixture was filtered through celite then concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 2% EtOAc/hexanes) to give tert-butyl (5-(cyclopent-1-en-1-yl)-2-nitrophenyl)carbamate (4.3 g, 32% yield).

reactant | tert-butyl (2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 43.9 mmol, 16 g, 1.0 equiv. | [N+](=O)([O-])C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C17H25BN2O6
reactant | cyclopent-1-en-1-yl trifluoromethanesulfonate | 52.7 mmol, 11.4 g, 1.2 equiv. | FC(S(=O)(=O)OC1=CCCC1)(F)F | C6H7F3O3S
reactant | Na2CO3 | 52.7 mmol, 5.6 g, 1.2 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 320 mL | O1CCOCC1 | C4H8O2
solvent | water | 160 mL | O | H2O
catalyst | Pd (PPh3)4 | 2.2 mmol, 2.54 g, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (5-(cyclopent-1-en-1-yl)-2-nitrophenyl)carbamate | 4.3 g, 32% yield | C1(=CCCC1)C=1C=CC(=C(C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C16H20N2O4
